US06730791B2
Step G: Preparation of [4-(4-chloro-1-oxobutyl)phenyl]methyl-propanedioic acid, dimethyl ester
Bubble hydrogen chloride gas through a solution of [4-(cyclopropylcarbonyl)phenyl]methyl-propanedioic acid, dimethyl ester (315 mg, 1.1 mmol) in ethanol (3 mL) and toluene (9 mL) for 10 minutes. Heat the solution to 68° C. After 4 hours, cool the solution to room temperature and bubble nitrogen through the solution for 1 hour. Add ethyl acetate and water to the residue. Dry the organic phase over anhydrous magnesium sulfate and concentrate to give the title compound (321 mg, 91%).

reactant | hydrogen chloride | Cl | ClH
reactant | [4-(cyclopropylcarbonyl)phenyl]methyl-propanedioic acid, dimethyl ester | 1.1 mmol, 315 mg | C1(CC1)C(=O)C1=CC=C(C=C1)CC(C(=O)OC)C(=O)OC | C16H18O5
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
product | [4-(4-chloro-1-oxobutyl)phenyl]methyl-propanedioic acid, dimethyl ester | 321 mg, 91% | ClCCCC(=O)C1=CC=C(C=C1)CC(C(=O)OC)C(=O)OC | C16H19ClO5
